US06166060
1-[1-Triphenylmethyl-1H-imidazol-4-yl]-6-cyclohexyl-3-hexyne (6.8 g, 0.014 mol) was dissolved in dry ethyl acetate (100 ml). Lindlar catalyst (5%, 1.8 g Pd on CaCO3 poisoned with lead) and 15 mgs of quinoline were added. H2 was added to the reaction flask via a balloon. The reaction flask was evacuated and then refilled with H2 gas from the balloon 3 times. The reaction was left to stir at room temperature under the presence of H2 (1 atm) for 48 hours. The H2 gas was removed and the reaction mixture filtered through a pad of celite with ethyl acetate, the ethyl acetate was removed in vacuo to afford 6.75 g of 1-[1-triphenylmethyl-1H-imidazol-4-yl]-6-cyclohexyl-cis-3-hexene.

reactant | 1-[1-Triphenylmethyl-1H-imidazol-4-yl]-6-cyclohexyl-3-hexyne | 0.014 mol, 6.8 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC#CCCC1CCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36N2
reactant | quinoline | 15 mgs | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Lindlar catalyst | 1.8 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 1-[1-triphenylmethyl-1H-imidazol-4-yl]-6-cyclohexyl-cis-3-hexene | 6.75 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CC\C=C/CCC1CCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H38N2
